US04721794
5-(trans-4-Hydroxycyclohexylthio)thiophene-2-sulfonamide
Trans-4-Hydroxycyclohexylmercaptan (9.92 g, 0.075 mol) in DMF (10 ml) was added dropwise to a stirred mixture of NaH (3.45 g, 50 % oil, 0.075 mol) and DMF (40 ml). When gas evolution was complete, N,N-dimethyl-N'-(5-bromothiophene-2-sulfonyl)formamidine (14.85 g, 0.05 mol) was added in one portion, rinsed in with DMF (10 ml) and the resulting mixture was heated on the steam bath for 1 hour. The DMF was removed under reduced pressure and the residue was stirred with methanol (50 ml) and 10% sodium hydroxide solution (50 ml) overnight. The methanol was evaporated and the resulting aqueous solution was added to 10% HCl (400 ml) and chilled. The solid that separated was collected and washed with water. The residue was triturated with 1-chlorobutane to give a solid, (12.0 g) after drying. Recrystallization from water followed by dichloroethane gave material with m.p. 145°-147° C.

reactant | Trans-4-Hydroxycyclohexylmercaptan | 0.075 mol, 9.92 g | O[C@@H]1CC[C@H](CC1)S | C6H12OS
reactant | NaH | 0.075 mol, 3.45 g | [H-].[Na+]
reactant | N,N-dimethyl-N'-(5-bromothiophene-2-sulfonyl)formamidine | 0.05 mol, 14.85 g | CN(C=NS(=O)(=O)C=1SC(=CC1)Br)C | C7H9BrN2O2S2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
product | 5-(trans-4-Hydroxycyclohexylthio)thiophene-2-sulfonamide | O[C@@H]1CC[C@H](CC1)SC1=CC=C(S1)S(=O)(=O)N | C10H15NO3S3
